US05951831
A process as claimed in claim 1, in which a 1:1 by weight mixture of sodium carbonate and monoammonium phosphate is subjected to the microwave radiation until a mixture of tetra sodium pyrophosphate, sodium tripolyphosphate and sodium hexametaphosphate is obtained.

reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | monoammonium phosphate | P(=O)([O-])(O)O.[NH4+]
reactant | tetra sodium pyrophosphate | [O-]P([O-])(=O)OP(=O)([O-])[O-].[Na+].[Na+].[Na+].[Na+]
reactant | sodium tripolyphosphate | [O-]P(=O)([O-])OP(=O)([O-])OP(=O)([O-])[O-].[Na+].[Na+].[Na+].[Na+].[Na+]
product | sodium hexametaphosphate | [O-]P1(=O)OP(=O)(OP(=O)(OP(=O)(OP(=O)(OP(=O)(O1)[O-])[O-])[O-])[O-])[O-].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+] | InChI=1S/6Na.H6O18P6/c;;;;;;1-19(2)13-20(3,4)15-22(7,8)17-24(11,12)18-23(9,10)16-21(5,6)14-19/h;;;;;;(H,1,2)(H,3,4)(H,5,6)(H,7,8)(H,9,10)(H,11,12)/q6*+1;/p-6
